US06469003B1
Pentan-2,3,4-trione 3-(4-chlorophenylhydrazone) (23.90 g) was added to a suspension of 66% sodium hydride (7.64 g) in anhydrous tetrahydrofuran (300 ml) under ice cooling, followed by stirring at room temperature for 30 minutes. Then, a solution of bromacetyl chloride (9.1 ml) in anhydrous tetrahydrofuran (100 ml) was added dropwise under ice cooling, followed by stirring at room temperature for 12 hours. The reaction mixture was poured into ice-water, and extracted with ethyl acetate. After washing with water and a brine, the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, the resulting residue was purified by silica gel column chromatography (acetone:hexane=1:9), and crystallized from hexane to obtain 6-acetyl-4-bromo-2-(4-chlorophenyl)-5-methyl-3(2H)-pyridazinone (11.96 g).

reactant | Pentan-2,3,4-trione 3-(4-chlorophenylhydrazone) | 23.90 g | ClC1=CC=C(C=C1)NN=C(C(C)=O)C(C)=O | C11H11ClN2O2
reactant | sodium hydride | 7.64 g | [H-].[Na+]
reactant | bromacetyl chloride | 9.1 ml | BrCC(=O)Cl | C2H2BrClO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-acetyl-4-bromo-2-(4-chlorophenyl)-5-methyl-3(2H)-pyridazinone | 11.96 g | C(C)(=O)C=1C(=C(C(N(N1)C1=CC=C(C=C1)Cl)=O)Br)C | C13H10BrClN2O2
